US08735379B2
To a mixture of tert-butyl 4-docosa-4,7,10,13,16,19-hexaenoylpiperazine-1-carboxylate (1.5 g, 3 mmol) in CH2Cl2 (20 mL) at 0° C. was added CF3CO2H (7 mL, 91 mmol). The mixture solution was stirred (0° C., 2 h) and then 10% Na2CO3 was added to adjust pH=10. The mixture was extracted with CH2Cl2 (3×30 mL). The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. The crude product was purified by silica chromatography (CH2Cl2:CH3OH, 20:1) to afford 1-(piperazin-1-yl)docosa-4,7,10,13,16,19-hexaen-1-one (1.17 g, 97.5%) as a colorless oil. Mass calculated for C26H40N2O=396.61. found: [M+H]+=396.7, 398.2.

reactant | tert-butyl 4-docosa-4,7,10,13,16,19-hexaenoylpiperazine-1-carboxylate | 3 mmol, 1.5 g | C(CCC=CCC=CCC=CCC=CCC=CCC=CCC)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C31H48N2O3
reactant | CF3CO2H | 91 mmol, 7 mL | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(piperazin-1-yl)docosa-4,7,10,13,16,19-hexaen-1-one | 1.17 g, 97.5% | N1(CCNCC1)C(CCC=CCC=CCC=CCC=CCC=CCC=CCC)=O | C26H40N2O
